US08067445B2
Step 1: 1-(4-Chlorophenyl)ethyl Chloroformate
Prepared according to the procedure described in Example 56, Step 1, using the following starting materials: 1-(4-chlorophenyl)ethanol and phosgene (20% in toluene).

reactant | 1-(4-chlorophenyl)ethanol | ClC1=CC=C(C=C1)C(C)O | C8H9ClO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1-(4-Chlorophenyl)ethyl Chloroformate | ClC(=O)OC(C)C1=CC=C(C=C1)Cl | C9H8Cl2O2
